US07262185B2
To 5-hydroxymethyl-4-methyl-1-propylimidazole (2.4 g) was added thionyl chloride (10 ml) at 0° C., and the mixture was heated for 30 minutes at 90° C. The mixture was allowed to be at room temperature. The solvent was distilled off under reduced pressure and the obtained residue was dissolved in methanol. The solvent was distilled off again under reduced pressure, to give 5-chloromethyl-4-methyl-1-propylimidazole hydrochloride (3.13 g) as brown oil.

reactant | 5-hydroxymethyl-4-methyl-1-propylimidazole | 2.4 g | OCC1=C(N=CN1CCC)C | C8H14N2O
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-4-methyl-1-propylimidazole hydrochloride | 3.13 g | Cl.ClCC1=C(N=CN1CCC)C | InChI=1S/C8H13ClN2.ClH/c1-3-4-11-6-10-7(2)8(11)5-9;/h6H,3-5H2,1-2H3;1H
